US05214051
6,7-Difluoro-1,4-dihydro-1-methyl-4-oxo-quinoline-3-carboxylic acid ethyl ester
6,7-Difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid ethyl ester (10.0 g, 39.5 mmol), methyl iodide (56 g, 395 mmol) and potassium carbonate (10.9 g, 79 mmol) were combined in dimethylsformamide and heated to 90° for 20 hours. The reaction mixture was cooled and poured into cold water (1.5 l). The precipitate was filtered, washed with cold water and recrystallized from ethyl acetate to yield the title product as white needles, m.p. 210°-212° (6.60 g, 24.7 mmol, 63% yield).

reactant | 6,7-Difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid ethyl ester | 39.5 mmol, 10.0 g | C(C)OC(=O)C1=CNC2=CC(=C(C=C2C1=O)F)F | C12H9F2NO3
reactant | methyl iodide | 395 mmol, 56 g | CI | CH3I
reactant | potassium carbonate | 79 mmol, 10.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1.5 l | O | H2O
product | 6,7-Difluoro-1,4-dihydro-1-methyl-4-oxo-quinoline-3-carboxylic acid ethyl ester | 63% yield | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)F)C | C13H11F2NO3
